US05366987
(f) 3-Dodecyl-5-isoxazole acetic acid
To a cold (-75° C.), stirred suspension of 3-dodecyl-5-methylisoxazole (3.40 g, 0.0135 mol) in dry tetrahydrofuran (900 mL) was added in one portion a 1.6M solution (8.5 mL, 0.014 mol) of n-butyl lithium in hexanes, and the mixture was stirred for 1.5 hours. The mixture was poured onto freshly crushed dry ice and allowed to warm overnight. The mixture was rotoevaporated, and the residue was partitioned between petroleum ether and 0.5M NaOH. The aqueous layer was washed (petroleum ether), acidified with concentrated hydrochloric acid to pH ~1-2, and extracted (CHCl3). The extract was dried (MgSO4) and rotoevaporated to a waxy solid. The solid was recrystallized from toluene to give a white solid; yield 0.65 g (16%); mp 79°-80° C.

reactant | 3-dodecyl-5-methylisoxazole | 0.0135 mol, 3.40 g | C(CCCCCCCCCCC)C1=NOC(=C1)C | C16H29NO
reactant | n-butyl lithium | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
solvent | tetrahydrofuran | 900 mL | O1CCCC1 | C4H8O
product | 3-Dodecyl-5-isoxazole acetic acid | C(CCCCCCCCCCC)C1=NOC(=C1)CC(=O)O | C17H29NO3
